US08124610B2
6-(4-(4-chlorobenzyl)thiazol-2-ylamino)-N-(thiazol-2-yl)pyridine-3-sulfonamide
The mixture of the 6-Thioureido-pyridine-3-sulfonic acid thiazol-2-ylamide (27 mg, 0.000086 mol) and 1-Bromo-3-(4-chloro-phenyl)-propan-2-one (25 mg, 0.00010 mol) in DMF/AcOH (1:1) was heated at 95° C. for 20 min. The reaction solution was directly purified on Gilson (semi-prep, reverse phase, Phenomenex 100×21.2 mm 10 micron C18 column, 20 mL/min, Gradient 85% A to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA. Solvent B: 7200 acetonitrile/800 water/8 TFA). Fractions were checked by LC/MS and found no pure desired product was isolated. Fractions with the desired product were combined and then dried on a lyophilizer to give the product (1126-8-P1) as a yellow powder. The product (a mixture) was purified again by chromatography (silica gel, 5% Ethyl acetate in hexanes to 100% Ethyl acetate) to give a cleaner product (1126-8-P2), which was purified by Prep TLC (25% Ethyl acetate in hexanes, then 100% Ethyl acetate) to give the final pure product (1126-8-P-3) as a yellow solid.

reactant | 6-Thioureido-pyridine-3-sulfonic acid thiazol-2-ylamide | 0.000086 mol, 27 mg | S1C(=NC=C1)NS(=O)(=O)C=1C=NC(=CC1)NC(=S)N | C9H9N5O2S3
reactant | 1-Bromo-3-(4-chloro-phenyl)-propan-2-one | 0.00010 mol, 25 mg | BrCC(CC1=CC=C(C=C1)Cl)=O | C9H8BrClO
solvent | DMF AcOH | CN(C)C=O.CC(=O)O
product | 6-(4-(4-chlorobenzyl)thiazol-2-ylamino)-N-(thiazol-2-yl)pyridine-3-sulfonamide | ClC1=CC=C(CC=2N=C(SC2)NC2=CC=C(C=N2)S(=O)(=O)NC=2SC=CN2)C=C1 | C18H14ClN5O2S3
